Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Duragesic / Chlorine / perphenazine / 
Depakote
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with PMHx of HIV (last CD4 ___, h/o 
STEMI, afib on apixaban, DVT, depression, back pain on chronic 
opioids presenting with chief complaint of cough and lethargy. 
He endorses feeling sick over the past week with progressive 
cough and lethargy at his nursing home. Noted to be around sick 
contacts with several members coughing. He denies difficulty 
breathing. PO intake has been decreased over the last week.

Was tachycardic and hypotensive at ___. Rapid 
aflutter in rate of 140s. He was hypotensive and received 10mg 
of Dilt. He became more hypotensive and required on Levophed. 
Got Vanc/Zosyn. 3L of fluids. Also got Lasix and steroids.

Workup from OSH
-cbc: 6.5 > 11.5/35 < 287
-chem: 129 4.6 91 22 49/4.5 151
-lactate 1.3
-abg 7.40/39/45
-CT chest: multifocal pna with tree in ___ opacities 
-vanc zosyn, 3L IVF
-thought to have AFL -> given 10 dilt -> hypotensive ___ -> 
started on NE
-oxygen requirement increased from NC to NRB -> Lasix IV -> 700 
cc opt
-prednisone 40 po given

___ ED Course notable for:  
- Narrow complex tachycardia to 150s
- adenosine 6mg, then adenosine 12mg, looked like aflutter
- started on norepi
- given fent and etomidate, DCCV with 125 J ofr HD unstable 
aflutter, converted to sinus
- azithromycin 500mg
- Placement of right femoral CVL
- Point of care ultrasound showing hyperdynamic LV (before LV), 
no respirophasic variation

On arrival to the MICU, he endorses the story above.

 
Past Medical History:
1. HIV diagnosed in year ___ and has been on AZT, 3TC and 
nevirapine since ___ with no other regimens and has 
been virologically suppressed for years. Risk factor MSM, nadir 
CD4 122. Otherwise include eosinophilic folliculitis in ___.  
2. Chronic low back pain, on chronic opiates.  
3. Depression and anxiety followed by Dr. ___ in Psychiatry.  
4. Anal condylomata, follows with ___.  
5. Hypertension.  
6. Thyroid nodule status post hemithyroidectomy in ___  

with benign pathology.  
7. NSTEMI II  
8. B/L DVT (___)  

 
Social History:
___
Family History:
Noncontributory  
 
Physical Exam:
ADMISSION EXAM
===========================
VITALS: Reviewed in metavision  
GENERAL: Alert, oriented, cachexic, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally anteriorly, no wheezes, 
rales, rhonchi  
CV: Tachycardic, regular rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  Cool legs and arms, no rashes or lesions noted. Tattoo 
over chest.
NEURO: Lethargic, slow to respond  

DISCHARGE EXAM
===========================
97.8 PO 141 / 86 100 17 95 RA   
GENERAL: NAD, laying flat in bed with no issue
HEENT: AT/NC
HEART: RRR
LUNGS: bronchial breath sounds at right base, inspiratory
adventitious breath sounds diffusely
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: no edema, moving all 4 extremities with purpose  
NEURO: moving all 4 extr spontaneously
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION LABS
========================
___ 02:00AM BLOOD WBC-7.1 RBC-3.46* Hgb-10.5* Hct-32.4* 
MCV-94 MCH-30.3 MCHC-32.4 RDW-14.0 RDWSD-47.9* Plt ___
___ 02:00AM BLOOD Neuts-87* Bands-2 Lymphs-8* Monos-2* 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-6.32* 
AbsLymp-0.57* AbsMono-0.14* AbsEos-0.07 AbsBaso-0.00*
___ 02:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-1+* Microcy-NORMAL Polychr-NORMAL
___ 02:00AM BLOOD ___ PTT-25.9 ___
___ 02:00AM BLOOD Glucose-226* UreaN-39* Creat-2.2*# Na-135 
K-4.4 Cl-100 HCO3-18* AnGap-17
___ 02:00AM BLOOD ALT-17 AST-22 LD(LDH)-266* AlkPhos-95 
TotBili-0.7
___ 02:00AM BLOOD cTropnT-<0.01 proBNP-2438*
___ 02:00AM BLOOD Albumin-3.1* Calcium-7.9* Phos-4.0 Mg-2.2
___ 04:05PM BLOOD IgG-1356 IgA-62* IgM-70
___ 02:10AM BLOOD Lactate-1.1

RELEVANT STUDIES
=======================
___ TTE:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is normal regional 
and global left ventricular systolic function. Quantitative 
biplane left ventricular ejection fraction is 66 %. Left 
ventricular cardiac index is high (>4.0 L/min/m2). There is no 
resting left ventricular outflow tract gradient. Tissue Doppler 
suggests a normal left ventricular filling pressure (PCWP less 
than 12mmHg). Mildly dilated right ventricular cavity with mild 
global free wall hypokinesis. Tricuspid annular plane systolic 
excursion (TAPSE) is depressed. The aortic sinus is mildly 
dilated with mildly dilated ascending aorta. The aortic arch 
diameter is normal. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. There is no aortic 
regurgitation.
The mitral valve leaflets appear structurally normal with no 
mitral valve prolapse. There is trivial mitral regurgitation. 
The tricuspid valve leaflets appear structurally normal. There 
is mild [1+] tricuspid
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.

IMPRESSION: Mildly dilated right ventricle with mild free wall 
hypokinesis and mild pulmonary hypertension. Mild symmetric left 
ventricular hypertrophy with normal cavity size and regional/ 
global systolic function.

MICROBIOLOGY
=========================

___ 2:08 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated.

 
 
___ 4:04 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: Negative

___ 11:46 am SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   BUDDING YEAST. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      YEAST.    MODERATE GROWTH. 

DISCHARGE LABS
=========================
___ 05:02AM BLOOD WBC-10.5* RBC-3.20* Hgb-9.9* Hct-29.6* 
MCV-93 MCH-30.9 MCHC-33.4 RDW-14.3 RDWSD-47.2* Plt ___
___ 05:02AM BLOOD Glucose-156* UreaN-8 Creat-0.8 Na-142 
K-4.0 Cl-103 HCO3-26 AnGap-13
___ 05:02AM BLOOD Calcium-8.4 Phos-3.3 Mg-1.___ w/ HIV (CD4 ___, CAD (h/o STEMI), AF on apixaban, 
h/o DVT, depression, LBP p/w cough and lethargy found to have 
multifocal PNA and SVT, initially required pressors in MICU, 
subsequently stabilized and called out to floor.

#Septic shock:
#Pneumonia:
#Bronchiectasis
Pt was initially admitted to MICU, as he was hypotensive and 
tachycardic on arrival. Required Levophed and aggressive IVF. CT 
w/ multifocal PNA, although has GGOs in same pattern as prior, 
and has a consolidation in LLL that may just be lobar PNA. PJP 
unlikely as patient had normal ___. Has now had multiple 
similar presentations over past ___ years. Sputum cx growing 
yeast, commensal flora. Was initialy treated with 
vanc/ceftaz/azithromycin, narrowed to augmentin/cipro once he 
was stable on the floor. Will plan for 14 day course (last day 
___, and should have pulmonary followup given GGOs on imaging 
and recurrent PNA. 

#Afib/aflutter with rapid ventricular rates: 
Likely driven by infection as above. Underwent DCCV with 125J in 
the ED. He had a hospitalization in ___ that noted AF w/ RVR 
that resolved with metop. Unclear if this was true AF or SVT. 
Continued home apixaban 5mg BID and metoprolol 25mg q6h once he 
was no longer hypotensive/septic.

___: 
baseline 0.7-1.0, 2.2 on admission. Was initially 4.5 at OSH, 
responded well to IVF and now normalized. Likely secondary to 
hypovolemia/septic shock. Creatinine on discharge 0.8.

#Anemia: 
chronic, though he had normal counts in ___. Likely block in
iron utilization ___ infection as above vs anemia of chronic
disease iso HIV. Hemoglobin on discharge 9.9.

#CAD
#H/o STEMI: 
EF 66% w/o RV hypokinesis and RV free WMA. Continued ASA and 
atorva 80, initially held ACE, restarted once stable.

#HIV: Continued descovy and dolutegravir.

#Chronic pain: Once no longer septic, continued on home regimen 
with bowel meds.

TRANSITIONAL ISSUES
===================
- Antibiotics = Augmentin/Cipro, 14 day course (last day ___
- Please ensure pulmonary followup (scheduled on day of 
discharge) given GGOs on imaging and recurrent PNA. 

#CODE: Full code
#CONTACT: HCP ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Fetzima (levomilnacipran) 120 mg oral DAILY 
5. Gabapentin 300 mg PO TID 
6. Metoprolol Succinate XL 100 mg PO DAILY 
7. Morphine SR (MS ___ 45 mg PO Q12H 
8. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO BID 
9. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
10. Diazepam 5 mg PO TID:PRN anxiety 
11. Docusate Sodium 100 mg PO BID 
12. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN congestion 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Senna 8.6 mg PO BID:PRN constipation 
15. OLANZapine 25 mg PO QHS 
16. Lisinopril 5 mg PO DAILY 
17. Atovaquone Suspension 750 mg PO DAILY 
18. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO QHS 
19. Dolutegravir 50 mg PO QHS 
20. Apixaban 5 mg PO BID 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
2.  Benzonatate 100 mg PO TID:PRN cough  
3.  Ciprofloxacin HCl 500 mg PO Q12H  
4.  GuaiFENesin ___ mL PO Q6H:PRN cough  
5.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
6.  Apixaban 5 mg PO BID  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 80 mg PO QPM  
9.  Atovaquone Suspension 750 mg PO DAILY  
10.  Cyanocobalamin 1000 mcg PO DAILY  
11.  Diazepam 5 mg PO TID:PRN anxiety  
12.  Docusate Sodium 100 mg PO BID  
13.  Dolutegravir 50 mg PO QHS  
14.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO QHS  
15.  Fetzima (levomilnacipran) 120 mg oral DAILY  
16.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN congestion 
 
17.  Gabapentin 300 mg PO TID  
18.  Lisinopril 5 mg PO DAILY  
19.  Metoprolol Succinate XL 100 mg PO DAILY  
20.  Morphine SR (MS ___ 45 mg PO Q12H  
21.  Multivitamins W/minerals 1 TAB PO DAILY  
22.  OLANZapine 25 mg PO QHS  
23.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO BID  
24.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia
Supraventricular Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had a cough

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We found that you had a pneumonia, which we treated with 
antibiotics. You also had a fast heart rate that required us to 
shock you with electricity.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- We would like you to follow up with a lung doctor

___ wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___